US07241791B2
Step 2: 4-[1-cyclobutyl-7-(trifluoromethyl)-1H-indazol-3-yl]benzene-1,3-diol
Prepared according to Method D step C from 1-cyclobutyl-3-(2,4-dimethoxyphenyl)-7-(trifluoromethyl)-1H-indazole (0.575 g, 1.5 mmol), boron tribromide (0.866 mL, 9.1 mmol) and 0.5 mL of cyclohexene to give the product (0.214 g) as an off-white solid.

reactant | 1-cyclobutyl-3-(2,4-dimethoxyphenyl)-7-(trifluoromethyl)-1H-indazole | 1.5 mmol, 0.575 g | C1(CCC1)N1N=C(C2=CC=CC(=C12)C(F)(F)F)C1=C(C=C(C=C1)OC)OC | C20H19F3N2O2
reactant | boron tribromide | 9.1 mmol, 0.866 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 0.5 mL | C1=CCCCC1 | C6H10
product | 4-[1-cyclobutyl-7-(trifluoromethyl)-1H-indazol-3-yl]benzene-1,3-diol | 0.214 g | C1(CCC1)N1N=C(C2=CC=CC(=C12)C(F)(F)F)C1=C(C=C(C=C1)O)O | C18H15F3N2O2
